US08293926B2
Synthesis of methyl (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylate
To 210 ml of methanol was added 42.0 g (133 mmol) of dimethyl (R)-2-(1-(4-chlorophenyl)-2-nitroethyl)malonate and developed nickel (21 g), and the mixture was reacted at 35° C. for 8 hours under a hydrogen pressure of 0.5 Mpa (gauge pressure). After completion of the reaction, the nickel catalyst was filtrated, and the filtrate was concentrated under reduced pressure. Ethyl acetate and water were added to cause liquid-separation, the organic layer was concentrate under reduced pressure, and crystallized from heptanes/ethyl acetate. The resultant crystal was filtrated, and dried under reduced pressure, to obtain 28.8 g (114 mmol) of a title compound.

reactant | dimethyl (R)-2-(1-(4-chlorophenyl)-2-nitroethyl)malonate | 133 mmol, 42.0 g | ClC1=CC=C(C=C1)[C@H](C[N+](=O)[O-])C(C(=O)OC)C(=O)OC | C13H14ClNO6
catalyst | nickel | 21 g | [Ni] | Ni
solvent | methanol | 210 ml | CO | CH4O
product | methyl (3S,4R)-4-(4-chlorophenyl)-2-oxopyrrolidine-3-carboxylate | 114 mmol, 28.8 g, Yield: 85% | ClC1=CC=C(C=C1)[C@H]1[C@@H](C(NC1)=O)C(=O)OC | C12H12ClNO3
